* C:\Users\HP\OneDrive\Pictures\Documents\Desktop\Audio-Amplifier\filter.asc
XU1 0 N001 N003 N006 N002 UA741
R1 N002 0 1000k
C1 N002 N001 4.7n
R2 N002 N001 22k
V1 0 N003 5
R3 N001 N005 470
C2 N005 N004 0.01µ
V2 N004 0 AC 2
V3 N006 0 5
.include UA741.301
.ac dec 20 1 500k
.backanno
.end
