* C:\Users\HP\OneDrive\Pictures\Documents\Desktop\Audio-Amplifier\gain.asc
V1 N005 0 SINE(0 10m 1K) AC 1
C2 N004 N005 10µ
R4 N004 0 223.6k
R3 N001 N004 213.4k
V2 N001 0 12V
R1 N001 N002 1K
R2 N006 0 118k
C4 N006 0 500µ
Q1 N002 N004 N006 0 BC847B
.model NPN NPN
.model PNP PNP
.lib C:\Users\HP\AppData\Local\LTspice\lib\cmp\standard.bjt
.ac dec 10 10 100k
.backanno
.end
