* C:\Users\madha\Desktop\Audio-Amplifier\pre_amp.asc
Q1 Vcc N001 N002 0 BC547B
Q2 Vo 0 N004 0 BC547B
V1 Vcc 0 5
V2 Vee 0 -5
Re1 N003 N002 50
Re2 N004 N003 50
R N003 Vee 2.5k
Rc Vcc Vo 5k
V3 N001 0 SINE(0 10m 1k) AC 1
.model NPN NPN
.model PNP PNP
.lib C:\Users\madha\AppData\Local\LTspice\lib\cmp\standard.bjt
.ac dec 10m 10m 100K
.backanno
.end
